US07186773B2
A 100 ml three-necked flask equipped with a thermometer, cooling tube having a 3-way cock and dropping funnel was charged with 27.7 g (168 mmol) of 5-norbornene-2-carboxylic acid fluoride (mixture of endo-form and exo-form) synthesized in Preparation Example 1 and 28 g (482 mmol) of potassium fluoride and was cooled in ice bath in nitrogen gas atmosphere. While maintaining the inside temperature of the flask at 3° to 10° C., 62 g (436 mmol) of CF3SiMe3 was added over two hours with stirring. After increasing the flask temperature to room temperature, stirring was carried out overnight. Then the reaction solution was poured into ice water, followed by extracting with diethylether. After washing an organic phase with water, diluted hydrochloric acid and then saturated sodium bicarbonate solution, the organic phase was dried with calcium chloride. Then refining was carried out by distillation under reduced pressure and 50 g (yield: 80%) of (2-fluoro-5-norbornene-2-yl)-1,1,1,3,3,3-hexafluoro-2-propanol (NB-2) was obtained.

reactant | 5-norbornene-2-carboxylic acid fluoride | 168 mmol, 27.7 g | C12C(CC(C=C1)C2)C(=O)F | C8H9FO
reactant | potassium fluoride | 482 mmol, 28 g | [F-].[K+]
reactant | CF3SiMe3 | 436 mmol, 62 g | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
product | (2-fluoro-5-norbornene-2-yl)-1,1,1,3,3,3-hexafluoro-2-propanol | 50 g, yield: 80% | FC1(C2C=CC(C1)C2)C(C(F)(F)F)(C(F)(F)F)O | C10H9F7O
